US07205312B2
Sec butyllithium (298 ml: 1.3 M) was added dropwise at −60° C. under N2 flow to a solution of N-(4-bromophenyl)acetamide (0.1892 mol) in THF (400 ml) and the mixture was stirred at −70° C. for 2 hours. A solution of 1-cyano-1-methyl-N,N-dimethylethanamine (0.075 mol) in THF (60 ml) was added dropwise, the mixture was brought to RT and then stirred at RT for 12 hours. The mixture was poured into ice and extracted with EtOAc. The solvent was evaporated, the residue was taken up in HCl (3 N) and EtOAc, extracted with EtOAc, basified with K2CO3 (10%) and extracted with CH2Cl2. The organic layer was separated, dried, filtered and the solvent was evaporated. The residue was recrystallized from (C2H5)2O and DIPE. The precipitate was filtered off and dried, yielding 6.8 g (36%) of N-[4-[2-(dimethylamino)-2-methyl-1-oxopropyl]phenylacetamide (interm. 3).

reactant | Sec butyllithium | 1.3 M, 298 ml | C(C)(CC)[Li]
reactant | N-(4-bromophenyl)acetamide | 0.1892 mol | BrC1=CC=C(C=C1)NC(C)=O | C8H8BrNO
reactant | 1-cyano-1-methyl-N,N-dimethylethanamine | 0.075 mol | C(#N)C(C)(N(C)C)C | C6H12N2
reactant | THF | 400 ml | C1CCOC1 | C4H8O
reactant | THF | 60 ml | C1CCOC1 | C4H8O
product | 4-[2-(dimethylamino)-2-methyl-1-oxopropyl]phenylacetamide | CN(C(C(=O)C1=CC=C(C=C1)CC(=O)N)(C)C)C | C14H20N2O2
